US09289419B2
Synthesis of ethyl 3-aminocyclohexanecarboxylate
Conc. HCl (1 mL) was added to a solution of 3-aminocyclohexanecarboxylic acid (500 mg, 3.49 mmol) in EtOH (20 mL) and stirring was continued at reflux temperature for 3 h. The reaction mixture was concentrated under reduced pressure to afford the crude, which was washed with 10% aqueous NaHCO3 solution, extracted with DCM, dried over anhydrous sodium sulphate to afford 300 mg of the title compound.

reactant | HCl | 1 mL | Cl | ClH
reactant | 3-aminocyclohexanecarboxylic acid | 3.49 mmol, 500 mg | NC1CC(CCC1)C(=O)O | C7H13NO2
reactant | EtOH | 20 mL | CCO | C2H6O
product | ethyl 3-aminocyclohexanecarboxylate | 300 mg | NC1CC(CCC1)C(=O)OCC | C9H17NO2
